US03991072
A mixture of 25.5 parts of (-)-1-(1-phenylethyl)-1H-imidazole-5-carboxylic acid and 280 parts of sulfinyl chloride is stirred and refluxed for 2 hours. The reaction mixture is cooled in an ice-bath. The product crystallizes upon the addition of 2,2'-oxybispropane. It is filtered off, washed with 2,2'-oxybispropane and dried, yielding 94% of (-)-1-(1-phenylethyl)-1H-imidazole-5-carbonyl chloride hydrochloride.

reactant | (-)-1-(1-phenylethyl)-1H-imidazole-5-carboxylic acid | C1(=CC=CC=C1)C(C)N1C=NC=C1C(=O)O | C12H12N2O2
reactant | sulfinyl chloride | S(=O)(Cl)Cl | Cl2OS
product | (-)-1-(1-phenylethyl)-1H-imidazole-5-carbonyl chloride hydrochloride | 94% | Cl.C1(=CC=CC=C1)C(C)N1C=NC=C1C(=O)Cl | InChI=1S/C12H11ClN2O.ClH/c1-9(10-5-3-2-4-6-10)15-8-14-7-11(15)12(13)16;/h2-9H,1H3;1H
